US06706709B2
A solution of 5-chlorosulfonyl-2-oxindole (3 g), o-anisidine (1.8 mL) and pyridine (2.1 mL) in dichloromethane (20 mL) was stirred at room temperature for overnight at which time the red color solid was present. The solid was filtered, washed with ethanol and dried under vacuum to yield 1.5 g (37%) of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid (2-methoxy-phenyl)-amide.

reactant | 5-chlorosulfonyl-2-oxindole | 3 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | o-anisidine | 1.8 mL | COC=1C(=CC=CC1)N | C7H9NO
reactant | pyridine | 2.1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid (2-methoxy-phenyl)-amide | 1.5 g, 37% | COC1=C(C=CC=C1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H14N2O4S
